US06784192B2
0.26 ml of 2-chloropyridine, 2.9 ml of a 0.97M phenyllithium cyclohexane/diethyl ether and 0.039 ml of diisopropylamine were dissolved in 9 ml of tetrahydrofuran, and the mixture was stirred at −45° C. for 1 hour. A mixed solution of 500 mg of 1-[(2-methoxy-3-pyridyl)methyl]-4-piperidineacetaldehyde obtained in Reference Example 22 and 2 ml of tetrahydrofuran was added dropwise thereinto, and the mixture was further stirred at −45° C. for 20 minutes. Water was added to the reaction solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with brine, and then dried over anhydrous magnesium sulfate. The solvent was evaporated, and the crude product was purified by NH form silica gel column chromatography (ethyl acetate:hexane=1:2), to give 420 mg of the title compound as a yellow oil.

reactant | 2-chloropyridine | 0.26 ml | ClC1=NC=CC=C1 | C5H4ClN
reactant | phenyllithium cyclohexane diethyl ether | 0.97M | C1CCCCC1.C1(=CC=CC=C1)[Li].C(C)OCC
reactant | diisopropylamine | 0.039 ml | C(C)(C)NC(C)C | C6H15N
reactant | tetrahydrofuran | 9 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | 1-[(2-methoxy-3-pyridyl)methyl]-4-piperidineacetaldehyde | 500 mg | COC1=NC=CC=C1CN1CCC(CC1)CC=O | C14H20N2O2
